US07632857B2
(3-Fluoro-3′-trifluoromethoxy-biphenyl-4-yl)-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone
The title compound is prepared in a manner substantially analogous to Procedure SS starting from (4-bromo-2-fluoro-phenyl)-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone and 3-Trifluoromethoxybenzene boronic acid. MS (M+H) 437.1

reactant | (4-bromo-2-fluoro-phenyl)-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone | BrC1=CC(=C(C=C1)C(=O)N1[C@@H](CCC1)CN1CCCC1)F | C16H20BrFN2O
reactant | 3-Trifluoromethoxybenzene boronic acid | FC(OC=1C=C(C=CC1)B(O)O)(F)F | C7H6BF3O3
product | (3-Fluoro-3′-trifluoromethoxy-biphenyl-4-yl)-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone | FC=1C=C(C=CC1C(=O)N1[C@@H](CCC1)CN1CCCC1)C1=CC(=CC=C1)OC(F)(F)F | C23H24F4N2O2
